US04970318
A. 2-(t-butoxycarbonylaminoethylthio)-N-(6-phenyl-benzothiazol-2-yl) thiazole-4-carboxamide
In a similar manner were prepared: 2-(t-butoxy-carbonylaminoethylthio) -N-(5-fluorobenzothiazol-2-yl) -thiazole-4-carboxamide, m.p. 198-199° C. and 2-(t-butoxy-carbonylaminoethylthio)-N-(3-methyl-5-fluorobenzothiazol-2-yl) thiazole-4-carboxamide, m.p. 204-205° C.

reactant | 2-(t-butoxy-carbonylaminoethylthio) -N-(5-fluorobenzothiazol-2-yl) -thiazole-4-carboxamide | C(C)(C)(C)OC(=O)NCCSC=1SC=C(N1)C(=O)NC=1SC2=C(N1)C=C(C=C2)F | C18H19FN4O3S3
reactant | 2-(t-butoxy-carbonylaminoethylthio)-N-(3-methyl-5-fluorobenzothiazol-2-yl) thiazole-4-carboxamide | C(C)(C)(C)OC(=O)NCCSC=1SC=C(N1)C(=O)NC1SC2=C(N1C)C=C(C=C2)F | C19H23FN4O3S3
product | 2-(t-butoxycarbonylaminoethylthio)-N-(6-phenyl-benzothiazol-2-yl) thiazole-4-carboxamide | C(C)(C)(C)OC(=O)NCCSC=1SC=C(N1)C(=O)NC=1SC2=C(N1)C=CC(=C2)C2=CC=CC=C2 | C24H24N4O3S3
